US04808599
The reaction is carried out as in Example 1, starting with 4-(4-chlorophenyl)benzo[b]thiophene-6-carboxylic acid (4.67 g) in toluene (45 cc) and thionyl chloride (3.6 cc) and then triethylamine (6.9 cc) and diethylamine (1.7 cc) in toluene (45 cc). After chromatography of the residue using a cyclohexane:ethyl acetate (90:10 by volume) mixture as the eluent, a residue is obtained, which is stirred for 2 hours in 40°-60° petroleum spirit. After filtering and drying, N,N-diethyl-4-(4-chlorophenyl)benzo[b]thiophene-6-carboxamide (1.07 g), m.p. 135° C., is obtained.

reactant | 4-(4-chlorophenyl)benzo[b]thiophene-6-carboxylic acid | 4.67 g | ClC1=CC=C(C=C1)C1=CC(=CC=2SC=CC21)C(=O)O | C15H9ClO2S
reactant | triethylamine | 6.9 cc | C(C)N(CC)CC | C6H15N
reactant | diethylamine | 1.7 cc | C(C)NCC | C4H11N
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | toluene | 45 cc | C1(=CC=CC=C1)C | C7H8
solvent | thionyl chloride | 3.6 cc | S(=O)(Cl)Cl | Cl2OS
solvent | toluene | 45 cc | C1(=CC=CC=C1)C | C7H8
product | N,N-diethyl-4-(4-chlorophenyl)benzo[b]thiophene-6-carboxamide | 1.07 g | C(C)N(C(=O)C=1C=C(C2=C(SC=C2)C1)C1=CC=C(C=C1)Cl)CC | C19H18ClNOS
